* ============================================================
* Transient clamp -- ISO 7637-2 pulse 2a into the battery input
* ============================================================
* This is the circuit that decides whether the board survives the
* electrical environment, so it is worth simulating rather than
* assuming.
*
* Pulse 2a models a sudden interruption of current in a device
* sharing the harness with this ECU. Per the severity table in
* research memo 06 (ISO 7637-2:2011, Level IV, 12 V system):
*
*     amplitude        +112 V
*     source impedance   2 ohm
*     pulse width        0.05 ms
*
* The clamp must hold the buck converter's input pin below its
* absolute maximum -- the LM5164 is a 100 V part, but the design
* target from the earlier artifacts is to stay under 42 V so that
* cheaper 60 V-class parts remain an option.
*
* D1 is an SMBJ33CA-class bidirectional TVS: 33 V working, ~36.7 V
* breakdown, ~53.3 V clamping at full rated pulse current.
* C1 is the bulk input capacitance that the TVS works alongside --
* it matters, because charge dumped into it is charge the TVS does
* not have to absorb.
* ============================================================

* TVS: breakdown 36.7 V, low dynamic resistance above the knee
.model TVS D(Is=1e-12 N=1.6 Rs=0.35 BV=36.7 IBV=1e-3)

* Pulse 2a: 112 V peak, 2 ohm source, 50 us wide, fast rise
Vpulse src 0 PWL(0 13.5  0.999m 13.5  1.0m 125.5  1.05m 125.5  1.0505m 13.5  3m 13.5)
Rsrc src bat 2

D1  0  bat TVS
C1  bat 0   10u
Rload bat 0 50

.control
tran 100n 2m
wrdata transient_clamp.dat v(bat) v(src)
.endc

.end

* ------------------------------------------------------------
* RESULT NOTE
* ------------------------------------------------------------
* Simulated clamp voltage under this pulse is ~50 V, not the
* "under 42 V" the earlier design artifacts asked for. That
* target cannot be met by an SMBJ33CA and was never derivable
* from a datasheet: the real SMBJ33CA is specified at 53.3 V
* clamping at its rated pulse current, so ~50 V here is the part
* behaving correctly, not the circuit failing.
*
* What actually constrains the design:
*   - LM5164 input rating is 100 V, so 50 V leaves 2x margin
*   - 60 V-class alternatives also survive 50 V
*
* The 42 V figure should be dropped from the spec rather than
* chased with a lower-voltage TVS, which would clamp during a
* legitimate suppressed load dump and have to absorb its energy.
* ------------------------------------------------------------
